US07365095B2
To a solution of 2-bromo-4-fluoro-6-[(1E)-prop-1-enyl]phenol (6.37 g, 0.0276 mol), toluene-4-sulfonic acid 2-hydroxy-but-3-enyl ester (8.8 g, 0.0363 mol) and triphenylphosphine (10.12 g, 0.0386 mol) in anhydrous toluene (200 mL) at 0° C. under nitrogen was added a solution of diethyl azodicarboxylate (6.72 g, 0.0386 mol) in anhydrous toluene (100 mL) over 10 minutes then the reaction mixture stirred at room temperature for 19 hours. The reaction was quenched by the addition of water (400 mL), stirred vigorously for 5 minutes and the resulting oily suspension extracted with diethyl ether (300 mL). The organic phase was separated, washed with water (2×500 mL), and saturated brine (400 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure to afford a yellow oil. Purification by flash chromatography using a solvent gradient of 2 to 10% ethyl acetate in hexane gave 12.11 g (96%) of 2-{2-bromo-4-fluoro-6-[(1E)-prop-1-enyl]phenoxy}but-3-enyl 4-methylbenzenesulfonate as a colorless oil. HRMS: calcd for C20H20BrFO4S+NH4+, 472.05879. found (ESI, [M+NH4]+), 472.0581.

reactant | 2-bromo-4-fluoro-6-[(1E)-prop-1-enyl]phenol | 0.0276 mol, 6.37 g | BrC1=C(C(=CC(=C1)F)\C=C\C)O | C9H8BrFO
reactant | toluene-4-sulfonic acid 2-hydroxy-but-3-enyl ester | 0.0363 mol, 8.8 g | OC(COS(=O)(=O)C1=CC=C(C=C1)C)C=C | C11H14O4S
reactant | triphenylphosphine | 0.0386 mol, 10.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.0386 mol, 6.72 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-{2-bromo-4-fluoro-6-[(1E)-prop-1-enyl]phenoxy}but-3-enyl 4-methylbenzenesulfonate | 12.11 g, 96% | CC1=CC=C(C=C1)S(=O)(=O)OCC(C=C)OC1=C(C=C(C=C1\C=C\C)F)Br | C20H20BrFO4S
